US06977264B2
Step (b) N-[(1R)-1-[(4-Chlorophenyl)methyl]-2-(4-{2-[(cyclopropylmethyl)amino]-phenyl}piperidyl)-2-oxoethyl]((3S)(3-1,2,3,4-tetrahydroisoquinolyl))-carboxamide
The title compound was prepared according to the procedure described in Example 3 (Step b) using tert-butyl 3-{N-[(1R)-1-[(4-chlorophenyl)methyl]-2-(4-(2-[(cyclopropylmethyl)-amino]phenyl}piperidyl)-2-oxoethyl]carbamoyl}(3S)-1,2,3,4-tetrahydroisoquinoline-2-carboxylate (Step a) (431 mg, 0.64 mmol) and 50% TFA in CH2Cl2 (20 mL). Purification by reverse phase preparative HPLC [Phenomenex; 5 μm 250×21.2 mm, 5% to 95% CH3CN (0.1% TFA) in H2O (0.1% TFA) over 30 min, then 100% CH3CN (0.1% TFA) for 2 min] provided the title compound (TFA salt) as a white foam (207 mg). MS (ESI, pos. ion) m/z: 571 (M+1); (ESI, neg. ion) m/z: 569 (M−1). Calc'd for C34H39ClN4O2: 570.28. Anal. Calcd for C34H39ClN4O2-2.4C2HF3O2: C, 55.16; H, 4.94; N, 6.63. Found: C, 55.18; H, 5.13; N, 6.61.

reactant | tert-butyl 3-{N-[(1R)-1-[(4-chlorophenyl)methyl]-2-(4-(2-[(cyclopropylmethyl)-amino]phenyl}piperidyl)-2-oxoethyl]carbamoyl}(3S)-1,2,3,4-tetrahydroisoquinoline-2-carboxylate | ClC1=CC=C(C=C1)C[C@H](C(=O)N1CCC(CC1)C1=C(C=CC=C1)NCC1CC1)NC(=O)[C@H]1N(CC2=CC=CC=C2C1)C(=O)OC(C)(C)C | C39H47ClN4O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | N-[(1R)-1-[(4-Chlorophenyl)methyl]-2-(4-{2-[(cyclopropylmethyl)amino]-phenyl}piperidyl)-2-oxoethyl]((3S)(3-1,2,3,4-tetrahydroisoquinolyl))-carboxamide | 207 mg | ClC1=CC=C(C=C1)C[C@H](C(=O)N1CCC(CC1)C1=C(C=CC=C1)NCC1CC1)NC(=O)[C@H]1NCC2=CC=CC=C2C1 | C34H39ClN4O2
